US04011335
To a Grignard solution, prepared from 12.5 g. of magnesium and 57.8 g. of vinyl bromide in 130 ml. of tetrahydrofuran, is slowly added dropwise at 0°-5° C. a solution of 40.11 g. of 7,9-dimethyl-6-decen-3-one in 90 ml. of tetrahydrofuran. The mixture is left to stir for 2 hours at room temperature, then poured on to 300 ml. of ice-water, acidified with dilute sulphuric acid and extracted three times with ether. The extracts are washed with 10% by weight aqueous sodium bicarbonate solution and saturated sodium chloride solution, dried over sodium sulphate and evaporated. By distillation there is obtained pure 3-ethyl-7,9-dimethyl-1,6-decadien-3-ol; nD24 = 1.4631; boiling point - 71° C./0.65 mm Hg.

reactant | magnesium | [Mg] | Mg
reactant | vinyl bromide | C(=C)Br | C2H3Br
reactant | 7,9-dimethyl-6-decen-3-one | CC(=CCCC(CC)=O)CC(C)C | C12H22O
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-ethyl-7,9-dimethyl-1,6-decadien-3-ol | C(C)C(C=C)(CCC=C(CC(C)C)C)O | C14H26O
